data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_397675_0,[C@:1]1([C:3]([H:13])([H:14])[H:15])(/[C:5]([C:4]([H:16])([H:17])[H:18])=[N:8]/[N:6]([H:9])[H:10])[C:2]([H:11])([H:12])[O:7]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])=[C:5]([C:4]([H:16])([H:17])[H:18])[N:8]([N:6]([H:9])[H:10])[C:2]([H:11])([H:12])[O:7]1,52.67737000001304
MR_37388_1,[C:1]1([C:3]([H:10])([H:11])[H:12])([C:4]([H:8])([H:9])[H:13])[C:2]([C:5]([H:14])([H:15])[H:16])([H:7])[O:6]1>>[C:1]([C:2](=[C:5]([H:14])[H:15])[H:7])([C:3]([H:10])([H:11])[H:12])([C:4]([H:8])([H:9])[H:13])[O:6][H:16],60.53680750000197
MR_181072_0,[C:1](/[C:3](=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:5]/[H:8])([O:6][H:7])[H:9])([H:10])([H:11])[H:12],63.787884999962046
MR_190128_1,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[N:7]\[C:2]([H:14])([H:15])[H:16])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](/[N:5]([H:9])[H:10])[N:7]([C:2]([H:14])([H:15])[H:16])[O:6][H:8])([H:11])([H:12])[H:13],70.97338750001171
MR_562173_0,[C:1]([O:2][O:3][H:6])([O:4][H:7])[N:5][H:8]>>[C:1]1([O:3][H:6])([O:4][H:7])[O:2][N:5]1[H:8],58.29725999998488
MR_217095_1,[C:1](=[C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[O:7][H:10])([O:5][H:8])[O:6][H:9]>>[C:1]1([O:5][H:8])([O:6][H:9])[C:2]([O:7][H:10])=[C:3]([H:11])[C:4]1([H:12])[H:13],44.85934750002656
MR_51088_0,[C:1]([C:3]([H:12])([H:13])[H:14])([N:4]([C:2]([H:9])([H:10])[H:11])[N:5]=[O:6])([H:7])[H:8]>>[C:1]([C:3]([H:12])([H:13])[H:14])([O:6][N:5][N:4][C:2]([H:9])([H:10])[H:11])([H:7])[H:8],52.172859999967045
MR_324183_2,[C:1]([C:2]([O:4][C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([O:5][H:8])([N:6]=[O:7])[H:9]>>[C:1]([C:2]([N:6]=[O:7])([H:10])[H:11])([O:4][C:3]([H:12])([H:13])[H:14])([O:5][H:8])[H:9],69.46487750000372
MR_688451_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:4](=[C:5]([H:17])[H:18])[H:10])[O:7][O:6][O:8][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([O:6][O:8][H:9])[O:7][C:4](=[C:5]([H:17])[H:18])[H:10],52.36361999998479
MR_342375_2,[C:1]([C:3]([C:4]([C:2](=[C:5]([H:13])[H:14])[O:7][H:9])=[C:6]([H:15])[H:16])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:2]1([O:7][H:9])[C:4](=[C:6]([H:15])[H:16])[C:5]1([H:13])[H:14])=[O:8])([H:10])([H:11])[H:12],64.88789250003833
MR_217411_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([H:7])[N:4]([C:2]([H:8])([H:9])[H:10])[N:5]1[H:6]>>[C:1](=[N:4]/[C:2]([H:8])([H:9])[H:10])(\[N:5]([C:3]([H:11])([H:12])[H:13])[H:6])[H:7],59.65516999999856
MR_660624_1,[C@:1]1(/[C:5](=[C:6](\[C:3]([H:14])([H:15])[H:16])[H:10])[H:9])([H:8])[N:4]([C:2]([H:11])([H:12])[H:13])[O:7]1>>[C:1]1([H:8])=[C:5]([H:9])[C@:6]([C:3]([H:14])([H:15])[H:16])([H:10])[N:4]([C:2]([H:11])([H:12])[H:13])[O:7]1,55.27020000002992
MR_387524_1,[C:1](/[C:5]([C:4](=[C:6]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[O:8][H:10])=[C:7](\[O:9][H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:4]([O:8][H:10])[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])[C:7]1([O:9][H:11])[H:12])([H:13])([H:14])[H:15],33.442612499994624
MR_261004_0,[C:1]1([H:11])([H:12])[N:4]([H:10])[N:3]([H:9])[C:5]([O:7][H:8])=[C:6]1[C:2]([H:13])([H:14])[H:15]>>[C:1]1([H:11])([H:12])[N:4]([H:10])[C@:6]1([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:3]/[H:9])[O:7][H:8],55.67368250000996
MR_645646_1,[C:1]1([H:10])([H:11])[C:4](/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:3]/[H:9])([O:7][H:8])[O:6]1>>[C:1]1([H:10])([H:11])[N:3]([H:9])[C:5]([C:2]([H:12])([H:13])[H:14])=[C:4]([O:7][H:8])[O:6]1,51.441822499993606
MR_48717_0,[C:1]([N:2]([C:3](=[C:4]([N:7]([H:13])[H:14])[N:8]([H:15])[H:16])[N:6]([H:11])[H:12])[N:5]([H:9])[H:10])([H:17])([H:18])[H:19]>>[C:1]([N:2]([C:4](=[C:3]([N:6]([H:11])[H:12])[N:8]([H:15])[H:16])[N:7]([H:13])[H:14])[N:5]([H:9])[H:10])([H:17])([H:18])[H:19],66.95299500003216
MR_89280_0,[C:1]([N:5]([O:8][C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([C:3]([H:16])([H:17])[H:19])[C:4]([H:18])([H:20])[H:21])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:5]1[C@@:6]([C:2]([H:13])([H:14])[H:15])([C:7]([C:3]([H:16])([H:17])[H:19])([C:4]([H:18])([H:20])[H:21])[H:9])[O:8]1)([H:10])([H:11])[H:12],57.243687500005365
MR_430774_1,[C@@:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](\[O:7][H:9])[H:13])([N:4]([H:11])[H:12])([O:6][H:8])[H:10]>>[C@:1]1([N:4]([H:11])[H:12])([H:10])[C@@:3]([C:2]([H:14])([H:15])[H:16])([O:6][H:8])[C@:5]1([O:7][H:9])[H:13],61.08335999997749
MR_614155_0,[N:1]([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][C:2]([O:6][H:8])=[O:7])[H:9]>>[N:1]1([H:9])[C:3]([C:4]([C:2]([O:6][H:8])=[O:7])([H:11])[H:12])([H:10])[O:5]1,70.01770499999907
MR_161287_0,[C:1]([C:4](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:6]\[H:8])=[N:7]/[H:9])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:3]1([C:2]([H:14])([H:15])[H:16])/[C:4](=[N:7]\[H:9])[N:6]1[H:8])([N:5]([H:10])[H:11])([H:12])[H:13],68.88193000001309
